US07910740B2
A solution of 945 mg (5 mmol) 2,4′-dichloroacetophenone and 583 mg (6 mmol) potassium rhodanide was heated to reflux for 30 minutes. After a few minutes a precipitation was formed. The solvent was evaporated under reduced pressure and the residue was suspended in tetrahydrofurane, stirred for 1 hour at room temperature, filtered and the filtrate was concentrated in vacuo. The residue was stirred with heptane and little ethanol for 15 minutes. The product was filtered off and dried to yield 953 mg (90%) 1-(4-chloro-phenyl)-2-thiocyanato-ethanone as a light yellow solid. 1H NMR (CDCl3, 250 MHz): δ (ppm)=7.89 (d, 2H), 7.51 (d, 2H), 4.692 (s, 2H).

reactant | 2,4′-dichloroacetophenone | 5 mmol, 945 mg | ClCC(=O)C1=CC=C(C=C1)Cl | C8H6Cl2O
reactant | potassium rhodanide | 6 mmol, 583 mg | C(#N)[S-].[K+]
product | 1-(4-chloro-phenyl)-2-thiocyanato-ethanone | 953 mg, 90% | ClC1=CC=C(C=C1)C(CSC#N)=O | C9H6ClNOS
